US06100293
To a solution of 2-methoxyphenethyl bromide (1.07 g, 4.98 mmol) in 5 ml of CH2Cl2 was added BBr3 (9.5 ml, 1.0 M in CH2Cl2) at -78° C. and it was allowed to warm to rt over 1.5 h. The reaction mixture was poured into CH2Cl2 and was washed with brine, dried to afford 2-hydroxy phenethyl bromide (quantitative).

reactant | 2-methoxyphenethyl bromide | 4.98 mmol, 1.07 g | COC1=C(CCBr)C=CC=C1 | C9H11BrO
reactant | BBr3 | 1.0 M, 9.5 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy phenethyl bromide | OC1=C(CCBr)C=CC=C1 | C8H9BrO
